Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics) / latex / 
Amoxicillin / aspirin / Erythromycin Base / Betadine / iodine / 
Novocain / red dye / sulfite / preservatives / egg / bee venom 
(honey bee) / fish derived / Iodinated Contrast Media - Oral and 
IV Dye / kiwi / passion fruit / Gadolinium-Containing Contrast 
Media
 
Attending: ___
 
Chief Complaint:
SOB, hypoxa
 
Major Surgical or Invasive Procedure:
___: liver biopsy
 
History of Present Illness:
Ms. ___ is a ___ female with a h/o of TBI, endometriosis, 
childhood asthma who comes for work up for her dyspnea as well 
as her newly found liver and lung lesions.

Cough: began in ___ with what she thought was a cold 
with associated congestion. Other cold like symptoms went away 
but cough persisted, non productive. Underwent evaluation at 
that time for the cough and new right upper quadrant pain and 
lump that was diagnosed as a muscle strain secondary to her 
cough. Her cough progressively worsened which would trigger 
abdominal pain not only in the RUQ but at other locations in her 
abdomen and chest. Cough symptoms peaked in early ___ and 
has since improved. 

Abdominal lump: noticed in ___, persisted until 
eventually seeing Dr. ___ PCP, in ___ who 
subsequently ordered a U/S which revealed numerous liver 
lesions, which led to the MRI liver which confirmed multiple 
liver lesions. 

SOB: began around the time of her cough. She says that her 
abdominal pain which prevent her from taking deep breaths 
leading to her perception of being short of breath. SOB peaked 
in early ___ and has since improved. SOB is best when laying 
flat, worse with exertion to the point where she could not speak 
in complete sentences in early ___. Denied hemoptysis. 

Denies: headache, vision changes, neck stiffness, hemoptysis, 
diarrhea, constipation, focal muscle weakness, sensation 
changes, h/o blood clots, h/o prolonged immobilization, h/o 
recent estrogen use, leg swelling or pain

Confirms: weight loss (unintentional) of 25 lbs since ___. 
Abdominal fullness since ___. 

Never had a colonoscopy. Had mammogram in past ___ years 
(unremarkable per patient), pap smear in ___ (negative for 
malignancy).
 
Past Medical History:
Asthma
Concussion/traumatic brain injury from trip and fall
Paroxysmal atrial fibrillation
Thyroid nodule
Endometriosis
Concern for lupus
 
Social History:
___
Family History:
 - Mother: lymphoma, Factor V ___ 
 - Father: prostate cancer, h/o CVA
 - Sister: esophageal cancer 
 - Has 4 other sisters: some have factor V leiden (3 of them)
 
Physical Exam:
Admission Exam:
===============
Vitals: 98.3  100 20 99 RA 
GENERAL: nontoxic appearance, no apparent respiratory distress
HEENT: PERRL, EOMI, anicteric sclera
NECK: supple neck, no cervical/supraclavicular LAD 
LUNGS: clear to auscultation bilaterally on posterior 
auscultation
CV: tachycardic but regular rhythm, normal s1 and s2, no g/r/m
ABD: b/s present, tender to deep palpation in RUQ, liver edge 
note 1-2cm below rib cage
EXT: warm, no edema noted
SKIN: no obvious skin lesions noted
NEURO: CN2-12 intact, ___ muscle strength in U and L extremities 
bilaterally
ACCESS: PIV

Discharge Exam:
===============
Vitals:  97.7 135 / 85 91 18 98 RA 
GENERAL: nontoxic appearance, no apparent respiratory distress
HEENT: EOMI, anicteric sclera
NECK: supple neck
LUNGS: clear to auscultation bilaterally on posterior 
auscultation
CV: tachycardic but regular rhythm, normal s1 and s2, no g/r/m
ABD: b/s present, no tenderness in all quadrants on deep 
palpation
EXT: warm, no edema noted
SKIN: no obvious skin lesions noted
NEURO: moving all extremities with purpose against gravity
ACCESS: PIV
 
Pertinent Results:
Admission Labs:
===============
___ 09:10AM BLOOD WBC-7.1 RBC-4.84 Hgb-13.1 Hct-42.2 MCV-87 
MCH-27.1 MCHC-31.0* RDW-15.4 RDWSD-48.9* Plt ___
___ 09:10AM BLOOD Neuts-72.3* Lymphs-16.4* Monos-7.8 
Eos-1.7 Baso-1.0 Im ___ AbsNeut-5.12 AbsLymp-1.16* 
AbsMono-0.55 AbsEos-0.12 AbsBaso-0.07
___ 06:15AM BLOOD ___ PTT-30.5 ___
___ 06:15AM BLOOD Glucose-78 UreaN-5* Creat-0.6 Na-139 
K-4.4 Cl-101 HCO3-28 AnGap-14
___ 06:15AM BLOOD ALT-20 AST-49* LD(LDH)-264* AlkPhos-349* 
TotBili-1.4
___ 06:15AM BLOOD Albumin-3.5 Calcium-9.4 Phos-3.8 Mg-2.1 
UricAcd-4.2

Interim Labs:
=============
___ 06:35AM BLOOD calTIBC-190* Ferritn-1153* TRF-146*
___ 06:15AM BLOOD HBsAg-Negative HBsAb-Negative
___ 06:35AM BLOOD Smooth-POSITIVE *
___ 06:35AM BLOOD ___ * Titer-1:40
___ 06:15AM BLOOD CA125-183*
___ 06:15AM BLOOD HCV Ab-Negative
___ 06:35AM BLOOD ANTI-LIVER-KIDNEY-MICROSOME ANTIBODY-PND

Discharge Labs:
===============
___ 06:50AM BLOOD Calcium-9.4 Phos-3.7 Mg-2.3
___ 06:50AM BLOOD ALT-21 AST-52* LD(LDH)-288* AlkPhos-384* 
TotBili-1.4
___ 06:50AM BLOOD Glucose-91 UreaN-7 Creat-0.6 Na-139 K-3.9 
Cl-100 HCO3-25 AnGap-18
___ 06:50AM BLOOD ___ PTT-29.8 ___
___ 06:50AM BLOOD WBC-7.0 RBC-4.99 Hgb-13.9 Hct-43.2 MCV-87 
MCH-27.9 MCHC-32.2 RDW-15.4 RDWSD-48.4* Plt ___

Micro:
======
URINE CULTURE (Final ___: negative

Studies:
========
___ Liver biopsy pathology pending

___ CT abdomen/pelvis without contrast
1.  Innumerable hepatic metastases are better characterized on 
MR dated ___.  Retroperitoneal adenopathy, omental deposits, 
and trace 
ascites are findings compatible with carcinomatosis.  Primary 
malignancy is not elucidated on current examination.  
2.  Splenomegaly. 
3.  Partially imaged pericardial effusion appears stable. 
4.  Moderate amount of ascites 

___ V/Q: IMPRESSION:  Normal perfusion and ventilation.  No 
evidence of pulmonary embolus. 

___ TTE: The left atrium is normal in size. No atrial septal 
defect is seen by 2D or color Doppler. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. The estimated pulmonary artery 
systolic pressure is normal. There is a moderate sized 
pericardial effusion. The effusion appears circumferential. 
There are no echocardiographic signs of tamponade.   

___ CXR: Multiple nodular opacities bilaterally correlate with 
nodule seen on recent CT, not significantly changed.  No new 
focal consolidation. 

 
Brief Hospital Course:
Brief Summary:
===========
Ms. ___ is a ___ with a h/o TBI, asthma, endometriosis, 
but with no prior malignancy history who was admitted for 
hypoxia work up and for an expedited malignancy work up for her 
new lung and liver lesions. Given her significant anaphylactic 
history for both gadolinium and iodine contrast, a V/Q scan was 
ordered and revealed a low likelihood of acute pulmonary edema; 
anticoagulation was therefore not started. Her shortness of 
breath was likely multifactorial: splinting ___ abdominal pain 
and disease burden in lungs. An echocardiogram revealed moderate 
sized pericardial effusion with no evidence of tamponade; her VS 
remained stable during entirety of hospitalization. Given her 
significant allergy list, we consulted allergy who gave 
recommendations about testing her for reactions to anesthetics 
prior to her liver biopsy. She was sent to the ICU for close 
observation after chloroprocaine SC injection which she 
tolerated well and subsequently moved forward with a liver 
biopsy. No subsequent complications after the procedure were 
noted. Given evidence of cirrhosis on a prior MRI liver, an 
autoimmune work up was pursued. 

Transitional Issues:
[ ] Tolerated Chloroprocaine 3% SC injection for liver biopsy. 
However, per allergy note, an allergic reaction can occur later 
on despite prior tolerance. 

Oncology Follow Up: Scheduled for ___ at 8:40 AM
- Cytology of liver biopsy pending at the time of discharge
- Further treatment to be determined in outpatient setting based 
on results from pathology/cytology of liver biopsy specimens. 

PCP ___: Scheduled for ___ at 9:00 AM
- Recommend repeat TTE in ___ weeks to evaluation for resolution 
of pericardial effusion. 
- Recommend trending LFT elevation 
- No prior colonoscopy. Should be assessed for utility of 
colonoscopy 

Liver Follow Up: To be arranged by Dr. ___ after 
discharge
- F/u Liver biopsy for etiology of cirrhosis
- Lab values pending at the time of discharge: 
Anti-Liver-Kidney-Microsome Antibody and Anti-Smooth Muscle 
Antibody 

Allergy Follow Up: Scheduled for ___ at 12:45 ___
- Recommend continued evaluation of allergies listed and further 
safety of obtained CT scan with IV contrast. 

Acute Issues:
=============
#SOB
#Hypoxia: in outpatient setting, satted at 90% RA on ambulation. 
SOB symptoms with associated cough began in ___. On CT 
chest w/o contrast on ___, was found to have numerous 
peribronchovascular irregular pulmonary nodules bilaterally 
measuring up to 13 mm, concerning for metastatic disease. Given 
contrast anaphylactic reactions, V/Q scan was done which ruled 
out acute pulmonary embolism. Bilateraly DVTs negative as well. 
Likely etiology of SOB/hypoxia multifactorial including 
significant disease burden in lungs and abdominal pain 
restricting full inspiration. 

#Lung masses
#Liver masses: multiple lesions seen in lungs and liver on MRI 
liver and CT chest w/o contrast prior to admission. Unclear 
primary source and was referred to hospital for expedited work 
up. CA ___ 3583H, CA-125 183. Liver biopsy done on ___ for 
cytology/pathology. Given contrast allergy, CT abdomen/pelvis 
without contrast done which did not reveal obvious source of 
primary malignancy. Will need follow up regarding results on 
outpatient basis. 

#Cirrhosis: Noted on MRI liver in ___. ALT wnl, AST slightly 
elevated, elevated AP, wnl tbili and wnl albumin on admission. 
No evidence of cirrhosis decompensation such as HE, ascites. 
Unclear etiology of cirrhosis. No significant drinking history. 
Prior to admission, was not taking any medications. Not 
overweight. Viral hepatitis panel negative. ___ positive to 
1:40. TIBC 190 low, ferritin 1153 high, and iron 40 wnl 
consistent with iron overload, likely ___ malignancy but 
possibly hereditary hemochromatosis. Will need further work up 
on etiology of cirrhosis. Anti smooth ab positive 1:40. Anti 
liver/kidney ab pending at time of discharge. 

#Pericardial effusion: noted on CT chest to be moderate in 
amount. Pulsus upon arrival to floor was 6 and had stable vital 
signs for duration of hospitalization. Etiology unclear but 
includes viral and malignancy given liver/lung findings. 
Echocardiogram revealed a circumferential moderate sized 
pericardial effusion with no evidence of tamponade. Follow up 
echocardiogram in ___ weeks with PCP.

#Weight loss: has lost 25lbs since ___, not 
intentionally. Likely due to underlying malignant process as 
noted above. 

#Multiple allergies: per patient, has history of reactions to 
contrast study dyes. History of anaphylaxis from contrast dye 
from an unknown study at age ___ requiring intubation (believes 
this may have been with gadolinium).  CT study w/ contrast in 
her ___ where she felt her throat was closing up. Allergy 
consulted: recommended allergy testing with Chloroprocaine 3% SC 
injection 10% dose and observation for 1 hour and 100% dose and 
observation for 1 hour. This was done in the ICU without 
complications. Went to ___ liver biopsy subsequently and once 
again tolerated topical anesthesia well. Per allergy note, this 
does not mean she would not develop a reaction to Chloroprocaine 
3% SC injection in the future however. Has an appointment with 
allergist on outpatient basis.

#Coping: recent finding of liver mets and lung mets, with 
initial abdominal ultrasound on ___ revealing liver 
lesions, followed up with further work up as above. Recent 
stressors at home as daughter has medical problems as well as a 
recent move from ___ to ___. Was seen by social work team 
while inpatient. 

# HCP/Contact: ___ (___) - ___ no HCP 
# Code:  Full code

 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
==================
 - Pericardial effusion
 - Malnutrition
 - Cirrhosis
 - Hypoxia
 - Multiple liver and lung lesions, pending biopsy

Secondary Diagnoses:
====================
 - Multiple allergies

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to care for you at the ___ 
___. 

Why did you come to the hospital?
 - Your lung doctor and cancer doctor were concerned about your 
shortness of breath and your imaging findings. 

What did you receive in the hospital?
 - We imaged your lungs because you were short of breath. 
Fortunately, the scan revealed you had a low likelihood of 
having a blood clot in your lungs. Your shortness of breath was 
likely due to you not taking deep breaths because of your 
abdominal pain and also due to the lesions in your lungs. 
 - Given the concern for the lesions that were seen in your 
lungs and liver, we moved forward with taking a biopsy of one of 
the liver lesions. 
 - Before the liver biopsy, given that you have many allergies, 
we gave you a small dose of the anesthetic that was later used 
for your procedure. You did not have a reaction and was cleared 
for the liver biopsy. The medications that you received were: 
Midazolam, Fentanyl and Chloroprocaine 
 - We imaged your abdomen and pelvis and did not identify a 
source of the lesions you had in your lungs and liver. 
 - We also did an ultrasound of your heart that revealed you had 
some fluid around your heart but that it was not causing you 
problems. 

What should you do after you leave the hospital?
 - You have an appointment with you cancer doctor on ___, 
___ at 8:40 AM. Your cancer doctor ___ follow up with 
you regarding the results of your biopsy results. 
 - You have other appointments with your primary care physician, 
___, and gastroenterologist as noted below. 
 - Please follow up with your primary care physician who may do 
more imaging of your heart as mentioned above. 
 - Please return to the hospital if you begin feeling very short 
of breath again or if you have other symptoms that cause you 
distress. 
 
We wish you the best,
Your ___ Team 

 
Followup Instructions:
___